US07186714B2
To a solution of 4-[8-(benzyloxy)-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl]-N-cyclopentylpyrimidin-2-amine (30 mg, 0.063 mmol) in ethanol (2 mL) was added 10% palladium on carbon (4 mg). The mixture was stirred under 10 psi of hydrogen for 3 hours. Additional 10% palladium on carbon (5 mg) was added and the mixture stirred under 15 psi of hydrogen for 1 hour. The catalyst was removed by filtering the mixture through Celite. The filtrate was concentrated and the residue purified by silica chromatography, eluting with 10% acetone in dichloromethane to yield 15 mg (60%) of 3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-8-ol. 1H NMR (CDCl3): δ 9.10 (m, 1H), 8.13 (d, 1H), 7.64 (dd, 2H), 7.15 (t, 2H), 6.86 (m, 2H), 6.41 (d, 1H), 5.27 (d, 1H), 4.38 (m, 1H), 2.13 (m, 2H), 1.73 (m, 6H); MS m/z 390 (M+1).

reactant | 4-[8-(benzyloxy)-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl]-N-cyclopentylpyrimidin-2-amine | 0.063 mmol, 30 mg | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)F)C2=NC(=NC=C2)NC2CCCC2 | C29H26FN5O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 4 mg | [Pd] | Pd
catalyst | palladium on carbon | 5 mg | [Pd] | Pd
product | 3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-8-ol | 15 mg, 60% | C1(CCCC1)NC1=NC=CC(=N1)C1=C(N=C2N1C=CC=C2O)C2=CC=C(C=C2)F | C22H20FN5O
